US07067506B2
Step 3: 4-[3-(5-Methyl-pyrazin-2-yl)-ureido]-3-(pyridin-3-ylmethoxy)-benzoic acid methyl ester.
To a stirred, cooled (about 0° C.) solution of 4-amino-3-(pyridin-3-ylmethoxy)-benzoic acid methyl ester (258 mg, 1.0 mmol) in toluene (3.0 mL) was added triethylamine (139 μL, 1.0 mmol) and triphosgene (98 mg, 0.33 mmol). After stirring for 30 minutes, 5-methyl-2-amino pyrazine (109 mg, 1.0 mmol) was added and the reaction was heated to 65 degrees C. The reaction was allowed to cool to room temperature, then diluted with ethyl acetate (50 mL) and water (50 mL). A precipitate formed which was filtered and dried under reduced pressure to yield the desired material as a white solid (47% yield). 1H-NMR (400 MHz, d6-DMSO) δ10.29 (s, 1H), 8.79 (s, 1H), 8.68 (d, 1H, 8.59 (br s, 1H), 8.48 (d, 1H), 7.70 (s, 1H), 7.62 (d, 1H), 7.51 (m, 1H), 5.32 (s, 2H), 3.88 (s, 3H), 2.32 (s, 3H).

reactant | 4-amino-3-(pyridin-3-ylmethoxy)-benzoic acid methyl ester | 1.0 mmol, 258 mg | COC(C1=CC(=C(C=C1)N)OCC=1C=NC=CC1)=O | C14H14N2O3
reactant | triethylamine | 1.0 mmol, 139 μL | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 0.33 mmol, 98 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 5-methyl-2-amino pyrazine | 1.0 mmol, 109 mg | CC=1N=CC(=NC1)N | C5H7N3
solvent | toluene | 3.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
product | 4-[3-(5-Methyl-pyrazin-2-yl)-ureido]-3-(pyridin-3-ylmethoxy)-benzoic acid methyl ester | 47% yield | COC(C1=CC(=C(C=C1)NC(=O)NC1=NC=C(N=C1)C)OCC=1C=NC=CC1)=O | C20H19N5O4
